US04371696
Methyl 2-Phenyl-2-(4-picolylthio)acetate
Sodium 2-phenyl-2-(4-picolylthio)acetate was dissolved in methanol and dry hydrogen chloride added slowly so as to maintain gentle reflux for 1 hour. After cooling and stirring for approximately 16 hours, the reaction mixture was filtered and concentrated to yield title product (11.6 g.; oil; ms, calcd.: m/e 273; found: 273, 214, 150, 136, 124, 121, 105, 77, 65).

reactant | Sodium 2-phenyl-2-(4-picolylthio)acetate | C1(=CC=CC=C1)C(C(=O)[O-])SCC1=CC=NC=C1.[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | Methyl 2-Phenyl-2-(4-picolylthio)acetate | 11.6 g | C1(=CC=CC=C1)C(C(=O)OC)SCC1=CC=NC=C1 | C15H15NO2S
